US05438052
(6R,7R)-7-Amino-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (215 mg) (0.5 mmol) are suspended in 10 ml of water and 5 ml of acetonitrile. At 0° C. there are added dropwise thereto while stirring 7.5 ml of 0.1N aqueous potassium hydroxide solution and after 30 minutes there are added portionwise thereto within one hour 210 mg (0.65 mmol) of 2-amino-4-thiazoleglyoxylic acid S-(2-benzothiazolyl) ester. After a further 5 hours 0.1N aqueous potassium hydroxide solution is added thereto until pH 7.8 has been reached. The suspension obtained is filtered, the filtrate is washed with ethyl acetate and acidified (pH 5) with dilute aqueous hydrochloric acid. The precipitated product is filtered off under suction and washed with water and diethyl ether. After drying in a high vacuum there are obtained 200 mg of (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-Amino-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.5 mmol, 215 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=NC=C1C1=CC(=C(C=C1)O)O | C18H16N4O5S2
reactant | potassium hydroxide | 0.1N, 7.5 ml | [OH-].[K+]
reactant | potassium hydroxide | 0.1N | [OH-].[K+]
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 200 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=NC=C1C1=CC(=C(C=C1)O)O)=O | C23H18N6O7S3
